US06982348B2
4) 4-[[[tert-butyl(dimethyl)silyl]oxy]methyl]-5,6,7,8,9,10-hexahydrobenzo[a]cycloocten-5-ol
To a solution of 4-(hydroxymethyl)-5,6,7,8,9,10-hexahydrobenzo[a]cycloocten-5-ol (11.51 g, 55.80 mmol), 4-N,N-dimethylaminopyridine (0.5 g) and triethylamine (9.33 ml, 67.0 mmol) in tetrahydrofuran (70 ml) was added tert-butyldimethylchlorosilane (9.25 g, 61.4 mmol) at room temperature and the mixture was stirred as it was overnight at room temperature. The reaction solution was poured into water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1-9/1) to give the objective substance.

reactant | 4-(hydroxymethyl)-5,6,7,8,9,10-hexahydrobenzo[a]cycloocten-5-ol | 55.80 mmol, 11.51 g | OCC1=CC=CC2=C1C(CCCCC2)O | C13H18O2
reactant | triethylamine | 67.0 mmol, 9.33 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 61.4 mmol, 9.25 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-[[[tert-butyl(dimethyl)silyl]oxy]methyl]-5,6,7,8,9,10-hexahydrobenzo[a]cycloocten-5-ol | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC2=C1C(CCCCC2)O | C19H32O2Si
